US07129238B2
(RS)-(2,6-Difluoro-4-isobutylcarbamoyl-phenyl)-ethoxy-acetic acid (71 mg) was dissolved in DMF (3.5 ml) and [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride [Prepared according to Ch. Lila, Ph. Gloanec, L. Cadet, Y. Hervé, J. Fournier, F. Leborgne, T. J. Verbeuren, G. De Nanteuil, Synthetic Communications 1998, 28, 23, 4419–4429] (88 mg), disopropylamine (114 mg) and 2-(1H-benzotriazole-1-yl) 1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) (80 mg) were subsequently added. After 30 min stirring at rt AcOEt (10 ml) was added and the organic layer was washed with 1 N HCl (2×10 ml), H2O (10 ml) and brine. The aqueous layers were extracted with more AcOEt (10 ml). After drying (MgSO4) the solvent was evaporated and the crude product was purified by HPLC to obtain 30 mg (23%) of (RS)-[(4-{[2-(2,6-difluoro-4-isobutylcarbamoyl-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester. White solid. MS 581.4 ([M+H]+).

reactant | (RS)-(2,6-Difluoro-4-isobutylcarbamoyl-phenyl)-ethoxy-acetic acid | 71 mg | FC1=C(C(=CC(=C1)C(NCC(C)C)=O)F)C(C(=O)O)OCC | C15H19F2NO4
reactant | 2-(1H-benzotriazole-1-yl) 1,1,3,3-tetramethyluronium tetrafluoroborate | 80 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | AcOEt | 10 ml | CCOC(=O)C | C4H8O2
reactant | [(4-aminomethyl-phenyl)-imino-methyl]-carbamic acid benzyl ester dihydrochloride | 88 mg | Cl.Cl.C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CN)=O
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | (RS)-[(4-{[2-(2,6-difluoro-4-isobutylcarbamoyl-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester | 30 mg, 23% | C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CNC(C(OCC)C1=C(C=C(C=C1F)C(NCC(C)C)=O)F)=O)=O | C31H34F2N4O5
